US04704459
In 5 ml of 6N hydrochloric acid was dissolved 500 mg of ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, and the resulting solution was subjected to reaction under reflux for 4 hours. Subsequently, the crystals thus deposited were collected by filtration and washed with 1 ml of water to obtain 390 mg (yield 84.0%) of 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride having a melting point 247°-250° C. (decomp.). The physical properties of this compound were identical with those of the compound obtained in Example 54.

reactant | ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 500 mg | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C23H21F3N4O4
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
product | 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 390 mg, yield 84.0% | Cl.NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | InChI=1S/C19H15F3N4O3.ClH/c20-9-1-2-15(13(21)5-9)26-8-12(19(28)29)16(27)11-6-14(22)18(24-17(11)26)25-4-3-10(23)7-25;/h1-2,5-6,8,10H,3-4,7,23H2,(H,28,29);1H
